US09403810B2
Step 6: [1,4,10-Trioxadispiro[4.2.4.2]tetradecane]
To a stirred solution of triethylsilane (1.965 mL, 12.30 mmol) in DCM (40 mL), under nitrogen, at −78° C. was successively added trifluoroacetic acid (0.948 mL, 12.30 mmol) and [1,4,10-trioxadispiro[4.2.4.2]tetradecan-9-ol](0.878 g, 4.1 mmol) in DCM (40 mL) at −78° C. The resulting mixture was slowly warmed to 0° C. and stirred for 2 hours. Saturated aqueous NaHCO3 solution was added and the mixture was extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered and the solvent removed under reduced pressure to afford the title compound.

reactant | triethylsilane | 12.30 mmol, 1.965 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 12.30 mmol, 0.948 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,4,10-trioxadispiro[4.2.4.2]tetradecan-9-ol | O1CCOC12CCC1(C(OCC1)O)CC2 | C11H18O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1,4,10-Trioxadispiro[4.2.4.2]tetradecane | O1CCOC12CCC1(COCC1)CC2 | C11H18O3
